### PR TITLE
[Merged by Bors] - chore: use `‖x‖ₑ` instead of `↑‖x‖₊`

### PR DESCRIPTION
**Pull request by YaelDillies**
Rename lemmas from `_nnnorm_`/`_ennnorm_` to `_enorm_` where applicable. Rewrite/golf proofs where necessary.

---

- [x] depends on: #20966

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 1]
```diff
@@ -323,22 +323,31 @@ theorem setLIntegral_congr_fun {f g : α → ℝ≥0∞} {s : Set α} (hs : Meas
...
+  simp_rw [← ofReal_norm_eq_enorm]
   refine lintegral_mono fun x => ENNReal.ofReal_le_ofReal ?_
   rw [Real.norm_eq_abs]
   exact le_abs_self (f x)
 
-theorem lintegral_nnnorm_eq_of_ae_nonneg {f : α → ℝ} (h_nonneg : 0 ≤ᵐ[μ] f) :
+@[deprecated (since := "2025-01-17")]
+alias lintegral_ofReal_le_lintegral_nnnorm := lintegral_ofReal_le_lintegral_enorm
+
+theorem lintegral_enorm_of_ae_nonneg {f : α → ℝ} (h_nonneg : 0 ≤ᵐ[μ] f) :
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/Lebesgue.lean:336]: You're changing the lemma name, but the statement is still about `nnorm`, not `enorm`. Can you choose one of these outcomes, please?

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 2]
```diff
@@ -323,22 +323,31 @@ theorem setLIntegral_congr_fun {f g : α → ℝ≥0∞} {s : Set α} (hs : Meas
...
     ∫⁻ x, ‖f x‖₊ ∂μ = ∫⁻ x, ENNReal.ofReal (f x) ∂μ := by
   apply lintegral_congr_ae
   filter_upwards [h_nonneg] with x hx
   rw [Real.nnnorm_of_nonneg hx, ENNReal.ofReal_eq_coe_nnreal hx]
 
-theorem lintegral_nnnorm_eq_of_nonneg {f : α → ℝ} (h_nonneg : 0 ≤ f) :
+@[deprecated (since := "2025-01-17")]
+alias lintegral_nnnorm_eq_of_ae_nonneg := lintegral_enorm_of_ae_nonneg
+
+theorem lintegral_enorm_of_nonneg {f : α → ℝ} (h_nonneg : 0 ≤ f) :
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/Lebesgue.lean:345]: Same here.

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 3]
```diff
@@ -485,6 +484,13 @@ theorem Memℒp.integrable_norm_rpow' [IsFiniteMeasure μ] {f : α → β} {p :
   · simp [h_top, integrable_const]
   exact hf.integrable_norm_rpow h_zero h_top
 
+lemma Memℒp.integrable_norm_pow {f : α → β} {p : ℕ} (hf : Memℒp f p μ) (hp : p ≠ 0) :
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/L1Space.lean:487]: These lemmas are new, right? Are you using them anywhere in this PR?

**Review by grunweg — COMMENTED** [review]
Three small comments (so far).

**Comment by grunweg** [comment]
I pushed a fix for one file; the two others would take me longer.

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/L1Space.lean:487]: Whoops, they were supposed to belong to another PR. Will move them out

**Comment by grunweg** [comment]
Almost there! For the record, I reviewed every single commit so far and it looks good to me. (I'll try to review the last fixes soon, and then maintainer merge.)

File: Mathlib/MeasureTheory/Function/LpSpace.lean [hunk 4]
```diff
@@ -1372,35 +1370,29 @@ private theorem lintegral_rpow_tsum_coe_nnnorm_sub_le_tsum {f : ℕ → α → E
...
   rw [h_liminf_pow]
-  refine (lintegral_liminf_le' ?_).trans ?_
-  · exact fun n =>
-      (Finset.aemeasurable_sum (Finset.range (n + 1)) fun i _ =>
-            ((hf (i + 1)).sub (hf i)).ennnorm).pow_const
-        _
-  · exact liminf_le_of_frequently_le' (Frequently.of_forall h)
-
-private theorem tsum_nnnorm_sub_ae_lt_top {f : ℕ → α → E} (hf : ∀ n, AEStronglyMeasurable (f n) μ)
+  refine (lintegral_liminf_le' fun n ↦ ?_).trans <|  liminf_le_of_frequently_le' <| .of_forall h
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/LpSpace.lean:1381]: nit: double space

**Review by grunweg — COMMENTED** [review]
The commit until fea2a2f (inclusive) look good to me. I found one nit :-)

File: Mathlib/MeasureTheory/Function/LpSpace.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/LpSpace.lean:1381]: Caught me there 😱

**Comment by YaelDillies** [comment]
I had to rebase to get rid of the conflict, so I squashed all the commits until https://github.com/leanprover-community/mathlib4/commit/fea2a2f3ef8a065b4d339c189fe690b9a8386810. From the second commit onwards are the commits you didn't review, Michael.

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 5]
```diff
@@ -237,18 +237,20 @@ theorem hasFiniteIntegral_norm_iff (f : α → β) :
...
   by_cases hfx : f x = ∞
   · simp [hfx]
   · lift f x to ℝ≥0 using hfx with fx h
     simp [← h, ← NNReal.coe_le_coe]
 
-lemma hasFiniteIntegral_toReal_iff {f : α → ℝ≥0∞} (hf_ne_top : ∀ᵐ x ∂μ, f x ≠ ∞) :
+lemma hasFiniteIntegral_toReal_iff {f : α → ℝ≥0∞} (hf : ∀ᵐ x ∂μ, f x ≠ ∞) :
     HasFiniteIntegral (fun x ↦ (f x).toReal) μ ↔ ∫⁻ x, f x ∂μ ≠ ∞ := by
-  simp [hasFiniteIntegral_iff_enorm, Real.enorm_of_nonneg ENNReal.toReal_nonneg]
+  have : ∀ᵐ x ∂μ, .ofReal (f x).toReal = f x := by filter_upwards [hf] with x hx; simp [hx]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/L1Space.lean:256]: Should this be a separate lemma?

**Review by grunweg — COMMENTED** [review]
One comment on this commit.

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 6]
```diff
@@ -77,18 +77,23 @@ theorem lintegral_edist_triangle {f g h : α → β} (hf : AEStronglyMeasurable
   refine lintegral_mono fun a => ?_
   apply edist_triangle_right
 
-theorem lintegral_nnnorm_zero : (∫⁻ _ : α, ‖(0 : β)‖₊ ∂μ) = 0 := by simp
+-- Yaël: Why do the following four lemmas even exist?
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/L1Space.lean:80]: I'm reviewing commit-by-commit: just flagging this so it gets taken care of before merging.

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 7]
```diff
@@ -367,12 +372,7 @@ theorem HasFiniteIntegral.smul [NormedAddCommGroup 𝕜] [SMulZeroClass 𝕜 β]
     {f : α → β} : HasFiniteIntegral f μ → HasFiniteIntegral (c • f) μ := by
   simp only [HasFiniteIntegral]; intro hfi
   calc
-    (∫⁻ a : α, ‖c • f a‖₊ ∂μ) ≤ ∫⁻ a : α, ‖c‖₊ * ‖f a‖₊ ∂μ := by
-      refine lintegral_mono ?_
-      intro i
-      -- After https://github.com/leanprover/lean4/pull/2734, we need to do beta reduction `exact mod_cast`
-      beta_reduce
-      exact mod_cast (nnnorm_smul_le c (f i))
+    (∫⁻ a : α, ‖c • f a‖ₑ ∂μ) ≤ ∫⁻ a : α, ‖c‖ₑ * ‖f a‖ₑ ∂μ := lintegral_mono fun i ↦ enorm_smul_le
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/L1Space.lean:375]: Are the parens arounds the LHS needed?

**Review by grunweg — COMMENTED** [review]
LGTM, two small details

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Function/L1Space.lean:256]: Not such what you mean. This have is just an ae version of `ENNReal.ofReal_toReal`

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 8]
```diff
@@ -608,12 +608,8 @@ variable {α β μ}
 theorem Integrable.add' {f g : α → β} (hf : Integrable f μ) (hg : Integrable g μ) :
     HasFiniteIntegral (f + g) μ :=
   calc
-    (∫⁻ a, ‖f a + g a‖ₑ ∂μ) ≤ ∫⁻ a, ‖f a‖ₑ + ‖g a‖ₑ ∂μ :=
-      lintegral_mono fun a => by
-        -- After https://github.com/leanprover/lean4/pull/2734, we need to do beta reduction before `exact mod_cast`
-        beta_reduce
-        exact mod_cast nnnorm_add_le _ _
-    _ = _ := lintegral_nnnorm_add_left hf.aestronglyMeasurable _
+    (∫⁻ a, ‖f a + g a‖ₑ ∂μ) ≤ ∫⁻ a, ‖f a‖ₑ + ‖g a‖ₑ ∂μ := lintegral_mono fun _ ↦ enorm_add_le _ _
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/L1Space.lean:611]: Are these parens needed?

File: Mathlib/Analysis/Convex/EGauge.lean [hunk 9]
```diff
@@ -32,7 +32,7 @@ section SMul
 /-- The Minkowski functional for vector spaces over normed fields.
 Given a set `s` in a vector space over a normed field `𝕜`,
 `egauge s` is the functional which sends `x : E`
-to the infimum of `‖c‖₊` over `c` such that `x` belongs to `s` scaled by `c`.
+to the infimum of `‖c‖ₑ` over `c` such that `x` belongs to `s` scaled by `c`.
 
 The definition only requires `𝕜` to have a `NNNorm` instance
```
Comment (grunweg) [inline Mathlib/Analysis/Convex/EGauge.lean:37]: This comment is outdated now; please fix :-)

File: Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean [hunk 10]
```diff
@@ -229,14 +229,17 @@ theorem integrable_approxOn [BorelSpace E] {f : β → E} {μ : Measure β} (fme
   rw [← memℒp_one_iff_integrable] at hf hi₀ ⊢
   exact memℒp_approxOn fmeas hf h₀ hi₀ n
 
-theorem tendsto_approxOn_range_L1_nnnorm [OpensMeasurableSpace E] {f : β → E} {μ : Measure β}
+theorem tendsto_approxOn_range_L1_enorm [OpensMeasurableSpace E] {f : β → E} {μ : Measure β}
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean:232]: I like the renaming, but please also fix the lemma to match up. (I only reviewed up to 6e98128ca8a15da4fcb5e574f11f558115350805; perhaps you're changing this later already.)

Comment (grunweg) [reply Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean:232]: Okay, sounds like 4d891a448293449c457d3a1a28832e0fc90d295f fixed this, thanks :-)

File: Mathlib/Analysis/Convex/EGauge.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/EGauge.lean:37]: Well, it wasn't yet outdated, but now it is 😁

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Metric.lean [hunk 11]
```diff
@@ -231,26 +231,29 @@ theorem AEMeasurable.norm {f : β → α} {μ : Measure β} (hf : AEMeasurable f
 theorem measurable_nnnorm : Measurable (nnnorm : α → ℝ≥0) :=
   continuous_nnnorm.measurable
 
+@[measurability]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Metric.lean:234]: Can you also add `fun_prop`, please?

File: Mathlib/MeasureTheory/Covering/Differentiation.lean [hunk 12]
```diff
@@ -860,10 +854,10 @@ theorem ae_tendsto_lintegral_nnnorm_sub_div_of_integrable {f : α → E} (hf : I
   rw [hy, h'x]
 
 theorem ae_tendsto_lintegral_nnnorm_sub_div {f : α → E} (hf : LocallyIntegrable f μ) :
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Covering/Differentiation.lean:856]: Please rename this lemma to match its statement.

File: Mathlib/Analysis/Convex/EGauge.lean [hunk 13]
```diff
@@ -206,13 +207,13 @@ lemma egauge_ball_le_of_one_lt_norm (hc : 1 < ‖c‖) (h₀ : r ≠ 0 ∨ ‖x
       simp [mem_smul_set_iff_inv_smul_mem₀ hc, norm_smul, hx, hr]
     · rcases rescale_to_shell_semi_normed hc hr hx with ⟨a, ha₀, har, -, hainv⟩
       calc
-        egauge 𝕜 (ball 0 r) x ≤ ‖a‖ₑ⁻¹ :=
+        egauge 𝕜 (ball 0 r) x ≤ ↑(‖a‖₊⁻¹) :=
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/EGauge.lean:210]: Here yes. This commit was merely reverting an error on my part. This is not part of the diff anymore

File: Mathlib/Probability/Variance.lean [hunk 14]
```diff
@@ -223,12 +216,13 @@ theorem variance_le_expectation_sq [IsProbabilityMeasure μ] {X : Ω → ℝ}
   · exact (AEMeasurable.pow_const (hm.aemeasurable.sub_const _) _).aestronglyMeasurable
 
 theorem evariance_def' [IsProbabilityMeasure μ] {X : Ω → ℝ} (hX : AEStronglyMeasurable X μ) :
-    evariance X μ= (∫⁻ ω, (‖X ω‖ₑ ∂μ) - ENNReal.ofReal (μ[X] ^ 2) := by
+    evariance X μ = (∫⁻ ω, ‖X ω‖ₑ ^ 2 ∂μ) - ENNReal.ofReal (μ[X] ^ 2) := by
```
Comment (grunweg) [inline Mathlib/Probability/Variance.lean:219]: Ah, so a previous commit was wrong? Let me flag this (for myself) for checking the overall diff.

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 15]
```diff
@@ -398,13 +398,13 @@ variable {α ι E : Type*} [MeasurableSpace α] {μ : Measure α} {l : Filter ι
 
 theorem AECover.integrable_of_lintegral_nnnorm_bounded [l.NeBot] [l.IsCountablyGenerated]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:399]: Please rename the lemma to match its statement.

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 16]
```diff
@@ -398,13 +398,13 @@ variable {α ι E : Type*} [MeasurableSpace α] {μ : Measure α} {l : Filter ι
...
     {φ : ι → Set α} (hφ : AECover μ l φ) {f : α → E} (I : ℝ) (hfm : AEStronglyMeasurable f μ)
-    (hbounded : ∀ᶠ i in l, (∫⁻ x in φ i, ‖f x‖₊ ∂μ) ≤ ENNReal.ofReal I) : Integrable f μ := by
+    (hbounded : ∀ᶠ i in l, (∫⁻ x in φ i, ‖f x‖ₑ ∂μ) ≤ ENNReal.ofReal I) : Integrable f μ := by
   refine ⟨hfm, (le_of_tendsto ?_ hbounded).trans_lt ENNReal.ofReal_lt_top⟩
   exact hφ.lintegral_tendsto_of_countably_generated hfm.enorm
 
 theorem AECover.integrable_of_lintegral_nnnorm_tendsto [l.NeBot] [l.IsCountablyGenerated]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:405]: Please rename the lemma to match its statement.

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 17]
```diff
@@ -413,13 +413,13 @@ theorem AECover.integrable_of_lintegral_nnnorm_tendsto [l.NeBot] [l.IsCountablyG
 
 theorem AECover.integrable_of_lintegral_nnnorm_bounded' [l.NeBot] [l.IsCountablyGenerated]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:414]: Please rename the lemma to match its statement.

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 18]
```diff
@@ -413,13 +413,13 @@ theorem AECover.integrable_of_lintegral_nnnorm_tendsto [l.NeBot] [l.IsCountablyG
...
     {φ : ι → Set α} (hφ : AECover μ l φ) {f : α → E} (I : ℝ≥0) (hfm : AEStronglyMeasurable f μ)
-    (hbounded : ∀ᶠ i in l, (∫⁻ x in φ i, ‖f x‖₊ ∂μ) ≤ I) : Integrable f μ :=
+    (hbounded : ∀ᶠ i in l, (∫⁻ x in φ i, ‖f x‖ₑ ∂μ) ≤ I) : Integrable f μ :=
   hφ.integrable_of_lintegral_nnnorm_bounded I hfm
     (by simpa only [ENNReal.ofReal_coe_nnreal] using hbounded)
 
 theorem AECover.integrable_of_lintegral_nnnorm_tendsto' [l.NeBot] [l.IsCountablyGenerated]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:420]: Please rename the lemma to match its statement.

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 19]
```diff
@@ -961,16 +961,16 @@ open UniformSpace in
 lemma _root_.HasCompactSupport.ennnorm_le_lintegral_Ici_deriv
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean:961]: Please rename the lemma to match its statement.

File: Mathlib/Analysis/FunctionalSpaces/SobolevInequality.lean [hunk 20]
```diff
@@ -311,43 +311,41 @@ theorem lintegral_pow_le_pow_lintegral_fderiv_aux [Fintype ι]
...
-  calc ∫⁻ x, (‖u x‖₊ : ℝ≥0∞) ^ p
-      = ∫⁻ x, ((‖u x‖₊ : ℝ≥0∞) ^ (1 / (#ι - 1 : ℝ))) ^ (#ι : ℝ) := by
+  calc ∫⁻ x, ‖u x‖ₑ ^ p
+      = ∫⁻ x, (‖u x‖ₑ ^ (1 / (#ι - 1 : ℝ))) ^ (#ι : ℝ) := by
         -- a little algebraic manipulation of the exponent
         congr! 2 with x
         rw [← ENNReal.rpow_mul, hp.conj_eq]
         field_simp
-    _ = ∫⁻ x, ∏ _i : ι, (‖u x‖₊ : ℝ≥0∞) ^ (1 / (#ι - 1 : ℝ)) := by
+    _ = ∫⁻ x, ∏ _i : ι, (‖u x‖ₑ : ℝ≥0∞) ^ (1 / (#ι - 1 : ℝ)) := by
```
Comment (grunweg) [inline Mathlib/Analysis/FunctionalSpaces/SobolevInequality.lean:320]: Can you remove the coercion here?

File: Mathlib/Analysis/FunctionalSpaces/SobolevInequality.lean [hunk 21]
```diff
@@ -311,43 +311,41 @@ theorem lintegral_pow_le_pow_lintegral_fderiv_aux [Fintype ι]
...
+    _ ≤ (∫⁻ x, ‖fderiv ℝ u x‖ₑ) ^ p := by
         -- apply the grid-lines lemma
         apply lintegral_prod_lintegral_pow_le _ hp
         have : Continuous (fderiv ℝ u) := hu.continuous_fderiv le_rfl
         fun_prop
   -- we estimate |u x| using the fundamental theorem of calculus.
   gcongr with x i
-  calc (‖u x‖₊ : ℝ≥0∞)
-    _ ≤ ∫⁻ xᵢ in Iic (x i), ‖deriv (u ∘ update x i) xᵢ‖₊ := by
+  calc (‖u x‖ₑ : ℝ≥0∞)
```
Comment (grunweg) [inline Mathlib/Analysis/FunctionalSpaces/SobolevInequality.lean:333]: Same here. Actually, can you search for any such instances?

File: Mathlib/Analysis/FunctionalSpaces/SobolevInequality.lean [hunk 22]
```diff
@@ -562,7 +560,15 @@ theorem eLpNorm_le_eLpNorm_fderiv_of_eq_inner  {u : E → F'}
       gcongr
       simp_rw [← mul_assoc]
       exact enorm_fderiv_norm_rpow_le (hu.differentiable le_rfl) h1γ
-      fun_prop
+      dsimp [enorm]
```
Comment (grunweg) [inline Mathlib/Analysis/FunctionalSpaces/SobolevInequality.lean:563]: I think this regression is unfortunate. Somebody should investigate; perhaps I'm nerd-sniped. Can you at least try to re-golf the remainder with fun_prop?

**Review by grunweg — COMMENTED** [review]
I have reviewed everything commit-by-commit now. Thanks a lot for boiling the (mathlib) ocean, Yael!

**Comment by grunweg** [comment]
Thanks for the notice! I have reviewed everything up to [c58a9fe](https://github.com/leanprover-community/mathlib4/pull/20806/commits/c58a9fe28b0937670f3a03f445b29221e2354613) again.

File: Mathlib/Analysis/FunctionalSpaces/SobolevInequality.lean (hunk 22 above)
Comment (YaelDillies) [reply Mathlib/Analysis/FunctionalSpaces/SobolevInequality.lean:563]: Oh wait sorry, I accidentally committed my debugging of why `fun_prop` broke. But now `fun_prop` is fixed

**Comment by YaelDillies** [comment]
Squashed everything you've reviewed again

File: Mathlib/Probability/Variance.lean (hunk 14 above)
Comment (grunweg) [reply Mathlib/Probability/Variance.lean:219]: Checked: that diff looks fine.

**Comment by grunweg** [comment]
Wait, it builds already :scream:

**Comment by YaelDillies** [comment]
💪 🐎 🏁

**Comment by grunweg** [comment]
Thanks for all your effort on this! I don't mind a maintainer's eye on
- the import increase (which seems justified; I didn't check that part carefully)
- if we care about the one comment I flagged
- if they actually want to read every line in excruciating detail.
If not for one of those, I think this is great and should be merged!
maintainer merge

**Comment by riccardobrasca** [comment]
!bench

**Comment by riccardobrasca** [comment]
If you are willing to do that please go ahead!

**Comment by grunweg** [comment]
!bench

**Comment by grunweg** [comment]
I'm a bit surprised by the 10% increase in `LpSpace.lean`. It might be good to understand where that is coming from.
(In the grand scheme of things, the increase is still fine - so knowing why would suffice for me.)

**Comment by YaelDillies** [comment]
I don't have time/know how to investigate, but if someone does so I would be grateful!

**Comment by fpvandoorn** [comment]
I don't think the tiny slowdown has to keep us from merging this.

@grunweg has said he will investigate this later.

bors merge

**Comment by grunweg** [comment]
See #21179 for the follow-up.
